US07893056B2
1,1-Dimethylethyl (2S)-2-(3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-1-pyrrolidinecarboxylate (1.98 g, 6.54 mmol) was dissolved in a mixture of CH2Cl2 (10 mL) and TFA (2.5 mL) and allowed to stir at room temperature overnight. When the reaction was complete as determined by LCMS, the solution was concentrated in vacuo, and the residue was dissolved in CH2Cl2 (5 mL) and washed with 1 N aq. NaOH (30 mL). The aqueous layer was extracted with CH2Cl2 (3×20 mL). The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo to provide 3-[(2S)-2-pyrrolidinylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidine (758 mg, 57%). LCMS: (M+H)+: 205.1.

reactant | 1,1-Dimethylethyl (2S)-2-(3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-1-pyrrolidinecarboxylate | 6.54 mmol, 1.98 g | N1=NN(C=2N=CN=CC21)C[C@H]2N(CCC2)C(=O)OC(C)(C)C | C14H20N6O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-[(2S)-2-pyrrolidinylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 758 mg, 57% | N1[C@@H](CCC1)CN1N=NC2=C1N=CN=C2 | C9H12N6
